US05476649
30.9 gm of 2-methylbromobutane and 53.7 gm of triphenylphosphine were dissolved into 50 ml of benzene and the mixture was refluxed for 88 hours. Crystals deposited were collected by filtration, washed with benzene, and dried to produce 15.7 gm of 2-methylbutyltriphenylphosphonium bromide (yield: 42%). The product was submitted to the next step without purification.

reactant | 2-methylbromobutane | 30.9 gm | CC(CBr)CC | C5H11Br
reactant | triphenylphosphine | 53.7 gm | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 2-methylbutyltriphenylphosphonium bromide | 15.7 gm, yield: 42% | [Br-].CC(C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC | InChI=1S/C23H26P.BrH/c1-3-20(2)19-24(21-13-7-4-8-14-21,22-15-9-5-10-16-22)23-17-11-6-12-18-23;/h4-18,20H,3,19H2,1-2H3;1H/q+1;/p-1
